datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)Nc1ccc([S:21][H:20])cc1.CC(=O)c1ccc([O-:10])c(O)c1>>CC(=O)Nc1ccc([S-:21])cc1.CC(=O)c1ccc([O:10][H:20])c(O)c1 10=20;20,21=21",
"CN1C2=C(CCCC2)S/C1=[N:10]/N.Nc1nc[n+:21]([H:20])c2c1ncn2C1CCCCC1>>CN1C2=C(CCCC2)S/C1=[N+:10](/N)[H:20].Nc1nc[n:21]c2c1ncn2C1CCCCC1 10=20;20,21=21",
"CC(C(=O)[O:21][H:20])C(C#N)c1ccccc1.CC(C)(C=O)[N:10](C)C>>CC(C(=O)[O-:21])C(C#N)c1ccccc1.CC(C)(C=O)[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CN1c2ccccc2C(=[NH:10])c2ccccc21.O=C(c1ccccc1Oc1ccccc1)[O:21][H:20]>>CN1c2ccccc2C(=[NH+:10][H:20])c2ccccc21.O=C(c1ccccc1Oc1ccccc1)[O-:21] 10=20;20,21=21",
"CC(C)(C)[O-:10].N#CC1=CC=C([CH:21](C(=O)C2=CN=CC=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].N#CC1=CC=C([CH-:21]C(=O)C2=CN=CC=C2)C=C1 10=20;20,21=21",
"CCCC(=O)O[O:21][H:20].c1cn[n-:10]c1>>CCCC(=O)O[O-:21].c1cn[n:10]([H:20])c1 10=20;20,21=21",
"O=S(=O)([O-])CCC[N:10]1CCOCC1.O=[N+]([O-])c1cccc2c1c(NCCO)c1ccccc1[n+:21]2[H:20]>>O=S(=O)([O-])CCC[N+:10]1([H:20])CCOCC1.O=[N+]([O-])c1cccc2c1c(NCCO)c1ccccc1[n:21]2 10=20;20,21=21",
"CCC[N+:21](CCC)(CC(=O)Nc1c(C)cccc1C)[H:20].Cc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10]>>CCC[N:21](CCC)CC(=O)Nc1c(C)cccc1C.Cc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20] 10=20;20,21=21",
"CCC(=O)c1nc(C(=O)[O:21][H:20])cs1.CCCS(=O)[O-:10]>>CCC(=O)c1nc(C(=O)[O-:21])cs1.CCCS(=O)[O:10][H:20] 10=20;20,21=21",
"C=[O+:21][H:20].c1cnc2cc([NH2:10])ccc2n1>>C=[O:21].c1cnc2cc([NH2+:10][H:20])ccc2n1 10=20;20,21=21",
"Cc1ccc(C(=S)[N-:10]c2ccc(Cl)c(Cl)c2)cc1.Fc1ccc([O:21][H:20])cc1>>Cc1ccc(C(=S)[N:10](c2ccc(Cl)c(Cl)c2)[H:20])cc1.Fc1ccc([O-:21])cc1 10=20;20,21=21",
"CC1CC(=O)N([O:21][H:20])C1(C)C.N#CCC[n+]1cccc(C(=O)[NH-:10])c1.[Br-]>>CC1CC(=O)N([O-:21])C1(C)C.N#CCC[n+]1cccc(C(=O)[NH:10][H:20])c1.[Br-] 10=20;20,21=21",
"COc1cccc(OC)c1-c1[nH]c2cccnc2[n+:21]1[H:20].c1ccc2c(c1)ccc1ccc([O-:10])cc12>>COc1cccc(OC)c1-c1[nH]c2cccnc2[n:21]1.c1ccc2c(c1)ccc1ccc([O:10][H:20])cc12 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH+:21]([H:20])[C@H]2CCCC[C@@H]21.c1ccc2c(c1)cnc1cc([O-:10])ccc12>>CC[C@]1(O)C[C@@H](C)[NH:21][C@H]2CCCC[C@@H]21.c1ccc2c(c1)cnc1cc([O:10][H:20])ccc12 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"[H:20][OH:21].C1CC2=N[N+](=[C-:10]N2[C@H]1C(C3=CC=CC=C3)(C4=CC=CC=C4)O)C5=C(C(=C(C(=C5F)F)F)F)F>>[H:20][C:10]1=[N+](N=C2N1[C@H](CC2)C(C3=CC=CC=C3)(C4=CC=CC=C4)O)C5=C(C(=C(C(=C5F)F)F)F)F.[OH-:21] 10=20;20,21=21",
"Nc1cc[n+]([O:21][H:20])cc1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-:10]>>Nc1cc[n+]([O-:21])cc1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CCc1ccc([O-:10])c(C(C)C)c1.O=C([O-])C1CC[NH+:21]1[H:20]>>CCc1ccc([O:10][H:20])c(C(C)C)c1.O=C([O-])C1CC[NH:21]1 10=20;20,21=21",
"CC(C)NCCCCCC[NH:10]C(C)C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)NCCCCCC[NH+:10](C(C)C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"O=S(=O)([O-])c1cc[n+:21]([H:20])cc1.[NH3+]c1ccc(-c2oc(-c3ccc(Br)cc3)c[n:10]2)cc1>>O=S(=O)([O-])c1cc[n:21]cc1.[NH3+]c1ccc(-c2oc(-c3ccc(Br)cc3)c[n+:10]2[H:20])cc1 10=20;20,21=21",
"CN(C)C([OH2+])[O-:10].O=S(=O)(c1ccccc1)[N:21](c1ccccn1)[H:20]>>CN(C)C([OH2+])[O:10][H:20].O=S(=O)(c1ccccc1)[N-:21]c1ccccn1 10=20;20,21=21",
"COC(=O)CCCc1c[nH]c[n+:21]1[H:20].C[N:10]1CCN(C(c2ccccc2)c2ccc(Cl)cc2)CC1>>COC(=O)CCCc1c[nH]c[n:21]1.C[N+:10]1([H:20])CCN(C(c2ccccc2)c2ccc(Cl)cc2)CC1 10=20;20,21=21",
"CCOCCn1c(CN2CCC[NH+](CCCCn3cc(C(=O)[O-])cn3)CC2)[n:10]c2ccccc21.CN1C(=O)c2ncn(C)c2[N:21]([H:20])C1=O>>CCOCCn1c(CN2CCC[NH+](CCCCn3cc(C(=O)[O-])cn3)CC2)[n+:10]([H:20])c2ccccc21.CN1C(=O)c2ncn(C)c2[N-:21]C1=O 10=20;20,21=21",
"CCC[NH+:21](C(C)C)[H:20].Cn1cncc1CC(C(=O)[O-])[NH2:10]>>CCC[NH:21]C(C)C.Cn1cncc1CC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"COc1cccc([NH2+:21][H:20])c1.Cc1ccc(S(=O)(=O)N(C)CCC(N)=[NH:10])cc1>>COc1cccc([NH2:21])c1.Cc1ccc(S(=O)(=O)N(C)CCC(N)=[NH+:10][H:20])cc1 10=20;20,21=21",
"CC[NH2+]CC[Se:21][H:20].Oc1ccccc1C[N:10]1CCCC1>>CC[NH2+]CC[Se-:21].Oc1ccccc1C[N+:10]1([H:20])CCCC1 10=20;20,21=21",
"COc1ccc2c(c1)nnn2[O:21][H:20].C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N:10](C)C>>COc1ccc2c(c1)nnn2[O-:21].C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N+:10](C)(C)[H:20] 10=20;20,21=21",
"COC(=O)c1nccc[n+:21]1[H:20].[NH3+]CCCCc1cccc[n:10]1>>COC(=O)c1nccc[n:21]1.[NH3+]CCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)Nc2ccc(N)[n:10]c2)cc1.c1ncc2cc([O:21][H:20])ccc2n1>>Nc1ccc(S(=O)(=O)Nc2ccc(N)[n+:10]([H:20])c2)cc1.c1ncc2cc([O-:21])ccc2n1 10=20;20,21=21",
